Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],3.54835390069
[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]#[C:7][H:8].[O:1][C:2]#[C:4][C:5]([H:6])([H:9])[H:10],5.57487067771
[H:1][C:2][O:3][C:4]#[C:5][O:7][H:8].[H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],-2.6296812595
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.95775180624
[H:1][C:2][O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]#[C:10][H:11].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11],-2.11079569856
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1][C:2][O:3].[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],2.33585452756
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.39302019087
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6],0.81621637757
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[H:5],0.858536844439
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4][H:5])[C:11]([C:9](=[C:6]([H:7])[H:8])[H:10])([H:12])[H:13],1.64486397438
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8].[H:1],5.59645377799
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14]>>[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14]1,-0.874311561301
[C:1]#[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],5.29243228605
[H:1][C:2]([O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11])=[O:12]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]1,2.54112000367
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][O:4][H:5],1.65976205938
[H:1][C:2]/[C:4]([H:5])=[C:6]([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],-5.00484838751
[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.57114001809
[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:4]=[O:3],-3.4322129716000003
[C:3]([H:4])#[C:5][O:6][H:7].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][H:7],-4.38528033824
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.07625283167
[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7]=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11],-0.467281896921
[C:1].[C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-3.19432454612
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],4.76595601777
[C:1]#[C:7][H:8].[C:2]([H:3])(=[C:6]=[C:4]([H:5])[C:10]([H:11])([H:12])[H:13])[H:9]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.76801615046
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6][O:7][H:8]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-3.5794768944199995
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:3][C:4][H:5],8.06264213188
[C:1][C:2][O:3].[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],1.13220150495
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15].[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.73003905746
[C:3](\[C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15].[H:1][C:2]([H:12])[H:16]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.5534512726299998
[C:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[O:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],2.66808462821
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:7][H:8].[H:6],1.75452397938
